US07169810B2
(2S)-3-(4-{4-[4-({[(tert-butoxycarbonyl)amino][(tert-butoxycarbonyl)imino]methyl}amino)phenyl]butoxy}phenyl)-2-ethoxypropanoic acid
(2S)-3-{4-[4-(4-Aminophenyl)butoxy]phenyl}-2-ethoxypropanoic acid (140 mg, 0.392 mmol) was dissolved in THF (10 ml). 1,3-Bis(tert-butoxycarbonyl)-2-methyl-2-thiopseudourea (116 mg, 0.392 mmol) was added and then N,N-diisopropylethylamine (126 mg, 0.979 mmol) was added. The mixture was stirred at room temperature for 12 days and thereafter evaporated in vacuum to dryness. Water and ethyl acetate were added into the residue. The mixture was then acidified with 1% hydrochloric acid, pH˜3. The two phases were separated. The water phase was extracted with ethyl acetate (×2). All organic phases were combined and washed with brine and dried with magnesium sulfate. The solvent was evaporated. Chromatography of the residue on an ISOLUTE column (SI, 2 g/6 ml) using DCM and then MeOH/DCM (1:99) as eluant gave an oil. Re-chromatography of the oil on an ISOLUTE column (SI, 2 g/6 ml) using DCM and then MeOH/DCM (0.5:99.5) gave 88 mg desired product, yield 37.5%.

reactant | (2S)-3-{4-[4-(4-Aminophenyl)butoxy]phenyl}-2-ethoxypropanoic acid | 0.392 mmol, 140 mg | NC1=CC=C(C=C1)CCCCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OCC | C21H27NO4
reactant | 1,3-Bis(tert-butoxycarbonyl)-2-methyl-2-thiopseudourea | 0.392 mmol, 116 mg | C(C)(C)(C)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
reactant | N,N-diisopropylethylamine | 0.979 mmol, 126 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | MeOH DCM | CO.C(Cl)Cl
product | (2S)-3-(4-{4-[4-({[(tert-butoxycarbonyl)amino][(tert-butoxycarbonyl)imino]methyl}amino)phenyl]butoxy}phenyl)-2-ethoxypropanoic acid | 88 mg, yield 37.5% | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)NC1=CC=C(C=C1)CCCCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OCC | C32H45N3O8
